US09029370B2
c) (S)-tert-Butyl 2-(4-(1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxamido)-3-fluorophenyl)morpholine-4-carboxylate
(S)-tert-Butyl 2-(4-amino-3-fluorophenyl)morpholine-4-carboxylate (104 mg, 0.35 mmol), 1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxylic acid (107 mg, 0.42 mmol), HBTU (200 mg, 0.525 mmol) and N-methylmorpholine (106 mg, 115 μl, 1.05 mmol) were combined with DMF (4 ml) to give a light yellow solution. The reaction mixture was stirred at room temperature for 17 hours. The reaction mixture was poured into 50 ml of water and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (20 g Silica gel, 70 to 50% ethyl acetate in heptane) to yield a white solid (110 mg, 59%). MS (ISP): 477.1 (100%, [M-tBu+H]+), 533.2 (30%, [M+H]+).

reactant | (S)-tert-Butyl 2-(4-amino-3-fluorophenyl)morpholine-4-carboxylate | 0.35 mmol, 104 mg | NC1=C(C=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)F | C15H21FN2O3
reactant | 1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxylic acid | 0.42 mmol, 107 mg | FC(OC=1C=C(C=CC1)N1N=CC(=C1)C(=O)O)F | C11H8F2N2O3
reactant | HBTU | 0.525 mmol, 200 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 1.05 mmol, 115 μl, 106 mg | CN1CCOCC1 | C5H11NO
solvent | water | 50 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (S)-tert-Butyl 2-(4-(1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxamido)-3-fluorophenyl)morpholine-4-carboxylate | 110 mg, 59% | FC(OC=1C=C(C=CC1)N1N=CC(=C1)C(=O)NC1=C(C=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)F)F | C26H27F3N4O5
